2177-11-09 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PRESEP CATHETER - START [**2177-11-8**] 10:00 AM
 OR SENT - At [**2177-11-8**] 11:30 AM
 ARTERIAL LINE - START [**2177-11-8**] 12:00 PM
 INVASIVE VENTILATION - START [**2177-11-8**] 01:58 PM
 OR RECEIVED - At [**2177-11-8**] 02:00 PM
   - Pain control with dilaudid IV
   - CVL pulled back 3-4 cm
   - Restarted Levophed low dose (now 0.2) as MAPs persistently running
   between ~57-62
   - Oxygenation a problem. Initial ABG 7.33/39/47; rechecked to
   7.36/34/93. FiO2 increased to 80%, O2 sats low to mid-90s. Chest x-ray
   with worsening of RML/RLL infiltrates. MVO2 80%. Increased PEEP to 8l.
   FiO2 increased to 100% given continued difficulty with oxygenation with
   resultant pO2 74.
        - Sputum brown/maroon, thick and large quantity
   - Febrile at 0500 to 100.8
 pancultured
   - D5
 NS started this morning for persistently low blood glucose
   (55-75)
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2177-11-8**] 09:25 PM
   Metronidazole - [**2177-11-9**] 02:32 AM
   Cefipime - [**2177-11-9**] 05:51 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2177-11-8**] 08:00 PM
   Hydromorphone (Dilaudid) - [**2177-11-9**] 04:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Patient sedated
 unable to assess.
   Flowsheet Data as of  [**2177-11-9**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 98 (94 - 128) bpm
   BP: 106/56(72) {87/42(57) - 203/101(123)} mmHg
   RR: 25 (10 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 20 (20 - 20)mmHg
   Mixed Venous O2% Sat: 72 - 72
   Total In:
                                                                  5,037 mL
                                                                    791 mL
   PO:
   TF:
   IVF:
                                                                  3,099 mL
                                                                    791 mL
   Blood products:
                                                                  1,938 mL
   Total out:
                                                                  2,690 mL
                                                                    769 mL
   Urine:
                                                                  1,460 mL
                                                                    519 mL
   NG:
                                                                     30 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,347 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 100%
   PIP: 16 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.34/39/150/19/-4
   Ve: 16.6 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General: Sedated; reactive to painful stimuli
   Pulm: Good air movement; coarse breath sounds upper lung fields
   bilaterally
   CV: RRR, normal S1/S2, no murmurs appreciated
   Abd: Pregnant, normoactive bowel sounds
   Ext: Warm to touch, well-perfused; radial and DP pulses 1+
   Labs / Radiology
   126 K/uL
   9.4 g/dL
   58 mg/dL
   0.8 mg/dL
   19 mEq/L
   3.4 mEq/L
   15 mg/dL
   115 mEq/L
   144 mEq/L
   27.1 %
   22.1 K/uL
        [image002.jpg]
   INR 1.2, PTT 39.0
   Fibrinogen 256
   Troponin 0.06, CK 139
   Amylase 25, lipase 9
   AST 51
   ALT 31
   Tbili 2.6
 1.6
   Amylase 25, lipase 9
                            [**2177-11-8**]  12:25 PM
                            [**2177-11-8**]  12:47 PM
                            [**2177-11-8**]  02:47 PM
                            [**2177-11-8**]  07:13 PM
                            [**2177-11-8**]  10:15 PM
                            [**2177-11-8**]  10:32 PM
                            [**2177-11-9**]  12:09 AM
                            [**2177-11-9**]  03:57 AM
                            [**2177-11-9**]  04:14 AM
                            [**2177-11-9**]  06:04 AM
   WBC
   26.4
   23.8
   19.6
   22.1
   Hct
   19
   27.2
   26.7
   26.4
   27.1
   Plt
   106
   100
   95
   126
   Cr
   0.9
   0.8
   0.9
   0.8
   TropT
   0.12
   0.06
   TCO2
   19
   17
   21
   20
   22
   22
   Glucose
   86
   71
   66
   61
   58
   Other labs: PT / PTT / INR:14.3/39.0/1.2, CK / CKMB /
   Troponin-T:139/4/0.06, ALT / AST:53/96, Alk Phos / T Bili:121/1.6,
   Amylase / Lipase:25/9, Differential-Neuts:85.0 %, Band:11.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:256 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.5 g/dL, Ca++:7.6 mg/dL, Mg++:2.6 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   26 year-old G7P2 female with a history of polysubstance abuse who
   presents with abdominal pain and hypotension now being admitted post
   cholecystectomy for cholecystitis for management of septic shock.
   # Septic shock:  Patient meets SIRS criteria with with leukocytosis,
   tachycardia, and tachypnea with source of infection likely related to
   cholecystitis.  Significant bandemia of 13% on admission.  s/p
   cholecystetomy on [**11-8**]. Another possible etiology is bacteremia
   introduced by IVDU. Currently requiring levophed for BP support.
   - Cefepime/flagyl for intrabdominal/GB pathology and vancomycin given
   IVDU
   - Murmur likely in the setting of pregnancy, but will check TTE given
   IVDU, murmur and sepsis
   - Central venous line in place, repositioned [**11-8**]
   - IV fluids to goal CVP 8-12
   - Transfuse for Hct > 30
   - IV fluid boluses and Levophed if needed to maintain MAP > 65 and UOP
   > 30cc/hr
   - Follow-up blood, urine and sputum cultures
   - Trend WBC count fever curve
   # Respiratory failure: Large A-a gradient. MVO2 > 70%.  Minimal
   correction with increased FiO2. Potential sources include ARDS, fluid
   overload, DAH.
   - Try to wean FiO2
 have room to go up on PEEP
   - Hold off on diuresis at this time as patient still requiring pressor
   # DIC:  Elevated INR though normalizing. Platelet count, fibrinogen
   improving. No e/o bleeding currently.
   - Per ob/gyn recs, continue to trend DIC labs
   # Hyperbilirubinemia:  Without elevation of alk phos and transaminases
   essentially normal (AST slightly elevated to 51).  U/S without evidence
   of obstruction.  Likely cholestasis in the setting of sepsis.
   - Monitor
   # Anemia:  Baseline hct unknown.  Overall stable on 2 checks in our
   system.  Likely has baseline anemia in pregnancy.  Low MCV (Fe
   deficiency vs hemoglobinopathy) and elevated RDW.  No clear e/o
   bleeding on imaging and guaiac negative on ED exam.  Given elevated T.
   bili as above, hemolysis also possible although LDH is normal
   haptoglobin reduced, bilirubin largely direct.
   - Continue to monitor hct q8h
   # Chest pain:  In setting of crack cocaine use and since resolved.  No
   significant ischemic changes noted on EKG.  Cardiac enzymes and now
   trending downwards. Concern for heart failure secondary to possible
   cardiac ischemia. CTA at OSH negative for dissection, PE.
   - Receiving morphine prn for abdominal pain and CP
   - Check cardiac enzymes, EKG for any concern for ischemia
   - TTE as above to also evaluate for wall motion abnormalities
   # Polysubstance abuse:  Still actively using with urine tox positive
   for cocaine and opiates.
   - social work/substance abuse consult
   # Pregnancy:  High risk for placental abruption.
   - Continue fetal monitoring
   - Ob recs
   # Hep C:  Status largely unknown.  Thrombocytopenic with elevated INR
   already in the setting of DIC; awaiting albumin to eval for synthetic
   function.  With exception of elevated t.bili, other LFTs not markedly
   abnormal (AST only mildly elevated).
   # FEN:  NPO
   # Access:  Right IJ in place
   # PPx:  Venodynes.  No SC heparin currently given DIC and elevated PTT,
   PT/INR.
   # Code:  FULL.
   # Dispo:  ICU level care
   # Comm:  [**Name (NI) 3019**] [**Name (NI) 3020**] [**Telephone/Fax (1) 3021**] (cell), [**Telephone/Fax (1) 3022**]
   (home)
   - Will try to contact again today
   ICU Care (As above)
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2177-11-8**] 10:00 AM
   Arterial Line - [**2177-11-8**] 12:00 PM
   22 Gauge - [**2177-11-8**] 08:20 PM
   20 Gauge - [**2177-11-8**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-11-09 09:01:00 Physician Attending Progress Note
Chief Complaint: abdominal pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 OR SENT - underwent CCY, no free air seen
 Initially off pressors but levophed re-started
   *Increasingly difficult to oxygenate-- FiO2 requirement initially 50%
   but now up to 100%
   *Febrile
   History obtained from Medical records, ICU housestaff
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2177-11-8**] 09:25 PM
   Metronidazole - [**2177-11-9**] 02:32 AM
   Cefipime - [**2177-11-9**] 05:51 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2177-11-8**] 08:00 PM
   Hydromorphone (Dilaudid) - [**2177-11-9**] 08:00 AM
   Other medications:
   Pantoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-9**] 08:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.8
C (100.1
   HR: 99 (94 - 128) bpm
   BP: 101/52(68) {87/42(57) - 203/101(123)} mmHg
   RR: 26 (10 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 20 (20 - 20)mmHg
   Mixed Venous O2% Sat: 72 - 72
   Total In:
                                                                  5,037 mL
                                                                  1,196 mL
   PO:
   TF:
   IVF:
                                                                  3,099 mL
                                                                  1,196 mL
   Blood products:
                                                                  1,938 mL
   Total out:
                                                                  2,690 mL
                                                                    877 mL
   Urine:
                                                                  1,460 mL
                                                                    627 mL
   NG:
                                                                     30 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,347 mL
                                                                    319 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, RR >35, Agitated
   PIP: 21 cmH2O
   Plateau: 22 cmH2O
   SpO2: 94%
   ABG: 7.34/39/150/19/-4
   Ve: 15.8 L/min
   PaO2 / FiO2: 150
   Physical Examination
   Gen: intubated sedated
   Lungs: coarse BS bilaterally
   CV: tachycardic, RR
   Abd: gravid, hypoactive bs, surgical dressings. FHR 130-140
   Ext: bil boots,
   Neurologic: Sedated, not responding to commands
   Labs / Radiology
   9.4 g/dL
   126 K/uL
   58 mg/dL
   0.8 mg/dL
   19 mEq/L
   3.4 mEq/L
   15 mg/dL
   115 mEq/L
   144 mEq/L
   27.1 %
   22.1 K/uL
        [image002.jpg]
                            [**2177-11-8**]  12:25 PM
                            [**2177-11-8**]  12:47 PM
                            [**2177-11-8**]  02:47 PM
                            [**2177-11-8**]  07:13 PM
                            [**2177-11-8**]  10:15 PM
                            [**2177-11-8**]  10:32 PM
                            [**2177-11-9**]  12:09 AM
                            [**2177-11-9**]  03:57 AM
                            [**2177-11-9**]  04:14 AM
                            [**2177-11-9**]  06:04 AM
   WBC
   26.4
   23.8
   19.6
   22.1
   Hct
   19
   27.2
   26.7
   26.4
   27.1
   Plt
   106
   100
   95
   126
   Cr
   0.9
   0.8
   0.9
   0.8
   TropT
   0.12
   0.06
   TCO2
   19
   17
   21
   20
   22
   22
   Glucose
   86
   71
   66
   61
   58
   Other labs: PT / PTT / INR:14.3/39.0/1.2, CK / CKMB /
   Troponin-T:139/4/0.06, ALT / AST:53/96 (slight rise), Alk Phos / T
   Bili:121/1.6 (decreasing), Amylase / Lipase:25/9,
   Differential-Neuts:85.0 %, Band:11.0 %, Lymph:3.0 %, Mono:1.0 %,
   Eos:0.0 %, Fibrinogen:256 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.5
   g/dL, Ca++:7.6 mg/dL, Mg++:2.6 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   26 yo female with polysubstance abuse and 33 wks pregnancy admitted
   with sepsis/multi organ failure now s/p CCY.
   *Septic shock s/p cholecystectomy
     Remains pressor-dependent on vancomycin/flagyl/cefipime with
   pan-cultures pending.Continue levophed  to maintain MAP>60, f/u Echo.
   Check [**Last Name (un) 402**] stim test.
   Change to bdz/fenatnyl for sedation to wean off propofol which should
   allow more leeway with BP
   *Respiratory failure: Remains intubated with high FiO2 requirement over
   the past 24 hours with volume overload,  CXR and clinical context
   suggest [**Doctor Last Name 11**]/ARDS mediated by sepsis/narcotics (has been on heroin).
   Will change to ARDS low Tv
s, check BG, contiinue supportive care
   *DIC: coagulation parameters improved. Check Q6hours as per Ob
   *Anemia: Hct
s unchanged since arrival to [**Hospital Unit Name 1**] yesterday afternoon
   *Intrauterine pregnancy: no new changes, Ob-following
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2177-11-8**] 10:00 AM
   Arterial Line - [**2177-11-8**] 12:00 PM
   22 Gauge - [**2177-11-8**] 08:20 PM
   20 Gauge - [**2177-11-8**] 09:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45 minutes
   Patient is critically ill

2177-11-10 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2177-11-9**] 08:05 PM
 PRESEP CATHETER - STOP [**2177-11-9**] 08:39 PM
 ARTERIAL LINE - STOP [**2177-11-9**] 08:39 PM
 INVASIVE VENTILATION - STOP [**2177-11-9**] 08:39 PM
 OR RECEIVED - At [**2177-11-9**] 10:20 PM
 INVASIVE VENTILATION - START [**2177-11-9**] 10:20 PM
 ARTERIAL LINE - START [**2177-11-9**] 11:26 PM
 PRESEP CATHETER - START [**2177-11-9**] 11:27 PM
 ARTERIAL LINE - STOP [**2177-11-10**] 04:54 AM
 ARTERIAL LINE - START [**2177-11-10**] 04:55 AM
 FEVER - 102.4
F - [**2177-11-9**] 07:00 PM
   [**11-9**]
   - [**Doctor Last Name 3075**]: checked Hep B, RPR, Rubella and gave rhogam
   - sedation changed to fentanyl and versed
   - CXR consistent with ARDS and placed on ARDS protocol, but increasing
   acidosis 7.25/46/137/21 (increase RR 30)
   - CE trending down
   - CVP 10
   - [**Last Name (un) **]-stim was normal
   - TTE ordered
   - Cx from swab growing coag positive staph
   - Pt w/ temp 102.4
   - Pt desat into high 70's, and fetus decelled into the low 100's for
   several minutes with rebound tachy to 170's.  [**Doctor Last Name 3075**] was concerned given
   pts acidosis, hypoxia, and fevers that the fetus was at risk. Took
   patient to OR for C-section and delivery. Baby was successfully
   delivered, but needed to be intubated. Intra-op thought there was
   active abdominal bleed and called general surgery. Pt received 2U pRBC.
   General surgery explored and did not find active bleed, likely bloody
   ascites and old bleed from chole.  Pt transferred to ICU.
   - Vent setting: FiO2:60% Vt:480 RR:30 PEEP: 10
   Last ABG- 7.32/37/109/20
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2177-11-9**] 08:08 PM
   Metronidazole - [**2177-11-10**] 05:13 AM
   Cefipime - [**2177-11-10**] 05:13 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2177-11-9**] 11:45 AM
   Fentanyl - [**2177-11-10**] 04:58 AM
   Midazolam (Versed) - [**2177-11-10**] 04:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-10**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37.1
C (98.7
   HR: 79 (79 - 113) bpm
   BP: 107/69(80) {82/48(65) - 119/73(88)} mmHg
   RR: 30 (24 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.4 kg (admission): 82.9 kg
   Height: 70 Inch
    CVP: 10 (10 - 15)mmHg
   Total In:
                                                                  7,225 mL
                                                                    967 mL
   PO:
   TF:
   IVF:
                                                                  6,475 mL
                                                                    967 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  3,392 mL
                                                                    639 mL
   Urine:
                                                                  1,267 mL
                                                                    539 mL
   NG:
                                                                    250 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  3,833 mL
                                                                    328 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (450 - 550) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability,
   Agitated, No Spon Resp
   PIP: 38 cmH2O
   Plateau: 30 cmH2O
   SpO2: 95%
   ABG: 7.32/37/109/19/-6
   Ve: 14.3 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General: Sedated; reactive to painful stimuli
   Pulm: Good air movement; coarse breath sounds upper lung fields
   bilaterally
   CV: RRR, normal S1/S2, no murmurs appreciated
   Abd: Pregnant, normoactive bowel sounds
   Ext: Warm to touch, well-perfused; radial and DP pulses 1+
   Labs / Radiology
   85 K/uL
   9.3 g/dL
   76 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.0 mEq/L
   14 mg/dL
   117 mEq/L
   141 mEq/L
   27.3 %
   16.6 K/uL
        [image002.jpg]
                            [**2177-11-9**]  02:47 PM
                            [**2177-11-9**]  03:25 PM
                            [**2177-11-9**]  05:05 PM
                            [**2177-11-9**]  06:00 PM
                            [**2177-11-9**]  07:20 PM
                            [**2177-11-9**]  10:30 PM
                            [**2177-11-9**]  10:44 PM
                            [**2177-11-10**]  12:02 AM
                            [**2177-11-10**]  03:52 AM
                            [**2177-11-10**]  04:43 AM
   WBC
   21.5
   22.8
   16.6
   Hct
   27.8
   29.3
   27.3
   Plt
   118
   101
   85
   Cr
   0.9
   0.9
   0.8
   TropT
   0.04
   TCO2
   22
   21
   21
   19
   18
   20
   Glucose
   64
   67
   104
   76
   Other labs: PT / PTT / INR:13.4/33.5/1.1, CK / CKMB /
   Troponin-T:204/3/0.04, ALT / AST:53/96, Alk Phos / T Bili:121/1.6,
   Amylase / Lipase:25/9, Differential-Neuts:85.0 %, Band:11.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:316 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   26 year-old G7P2 female with a history of polysubstance abuse who
   presents with abdominal pain and hypotension now being admitted post
   cholecystectomy for cholecystitis for management of septic shock.
   # Septic shock:  Patient meets SIRS criteria with with leukocytosis,
   tachycardia, and tachypnea with source of infection likely related to
   cholecystitis.  Significant bandemia of 13% on admission.  s/p
   cholecystetomy on [**11-8**]. Another possible etiology is bacteremia
   introduced by IVDU. Currently requiring levophed for BP support.
   - Cefepime/flagyl for intrabdominal/GB pathology and vancomycin given
   IVDU
   - Murmur likely in the setting of pregnancy, but will check TTE given
   IVDU, murmur and sepsis
   - Central venous line in place, repositioned [**11-8**]
   - IV fluids to goal CVP 8-12
   - Transfuse for Hct > 30
   - IV fluid boluses and Levophed if needed to maintain MAP > 65 and UOP
   > 30cc/hr
   - Follow-up blood, urine and sputum cultures
   - Trend WBC count fever curve
   # Respiratory failure: Large A-a gradient. MVO2 > 70%.  Minimal
   correction with increased FiO2. Potential sources include ARDS, fluid
   overload, DAH.
   - Try to wean FiO2
 have room to go up on PEEP
   - Hold off on diuresis at this time as patient still requiring pressor
   # DIC:  Elevated INR though normalizing. Platelet count, fibrinogen
   improving. No e/o bleeding currently.
   - Per ob/gyn recs, continue to trend DIC labs
   # Hyperbilirubinemia:  Without elevation of alk phos and transaminases
   essentially normal (AST slightly elevated to 51).  U/S without evidence
   of obstruction.  Likely cholestasis in the setting of sepsis.
   - Monitor
   # Anemia:  Baseline hct unknown.  Overall stable on 2 checks in our
   system.  Likely has baseline anemia in pregnancy.  Low MCV (Fe
   deficiency vs hemoglobinopathy) and elevated RDW.  No clear e/o
   bleeding on imaging and guaiac negative on ED exam.  Given elevated T.
   bili as above, hemolysis also possible although LDH is normal
   haptoglobin reduced, bilirubin largely direct.
   - Continue to monitor hct q8h
   # Chest pain:  In setting of crack cocaine use and since resolved.  No
   significant ischemic changes noted on EKG.  Cardiac enzymes and now
   trending downwards. Concern for heart failure secondary to possible
   cardiac ischemia. CTA at OSH negative for dissection, PE.
   - Receiving morphine prn for abdominal pain and CP
   - Check cardiac enzymes, EKG for any concern for ischemia
   - TTE as above to also evaluate for wall motion abnormalities
   # Polysubstance abuse:  Still actively using with urine tox positive
   for cocaine and opiates.
   - social work/substance abuse consult
   # Pregnancy:  High risk for placental abruption.
   - Continue fetal monitoring
   - Ob recs
   # Hep C:  Status largely unknown.  Thrombocytopenic with elevated INR
   already in the setting of DIC; awaiting albumin to eval for synthetic
   function.  With exception of elevated t.bili, other LFTs not markedly
   abnormal (AST only mildly elevated).
   # FEN:  NPO
   # Access:  Right IJ in place
   # PPx:  Venodynes.  No SC heparin currently given DIC and elevated PTT,
   PT/INR.
   # Code:  FULL.
   # Dispo:  ICU level care
   # Comm:  [**Name (NI) 3019**] [**Name (NI) 3020**] [**Telephone/Fax (1) 3021**] (cell), [**Telephone/Fax (1) 3022**]
   (home)
   - Will try to contact again today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-11-9**] 11:26 PM
   22 Gauge - [**2177-11-9**] 11:26 PM
   Presep Catheter - [**2177-11-9**] 11:27 PM
   Arterial Line - [**2177-11-10**] 04:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-11-11 07:41:00 Physician Resident Progress Note
Chief Complaint: Septic shock s/p ccy and C section
   24 Hour Events:
   - Bl Cx negative from [**Hospital 1188**] hospital, Urine Cx few GPCs
   - PM CBC with stable Hct and plts, WBC still trending up
   -Wound culture here from ccy growing MSSA
   -No vegetations on TTE.  Right ventricular dilation, hypokinesis, and
   pressure/volume overload
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2177-11-10**] 07:34 PM
   Metronidazole - [**2177-11-11**] 02:19 AM
   Cefipime - [**2177-11-11**] 05:14 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-11-10**] 07:43 AM
   Fentanyl - [**2177-11-10**] 10:48 PM
   Heparin Sodium - [**2177-11-11**] 12:17 AM
   Dextrose 50% - [**2177-11-11**] 05:12 AM
   Midazolam (Versed) - [**2177-11-11**] 05:59 AM
   Other medications:
   Changes to medical and family history: none- still unable to contact
   family at this time.
   Review of systems is unchanged from admission except as noted below
   Review of systems:  unable to attain [**2-15**] pt sedation
   Flowsheet Data as of  [**2177-11-11**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 76 (73 - 88) bpm
   BP: 101/64(77) {80/50(60) - 115/74(88)} mmHg
   RR: 22 (22 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.4 kg (admission): 82.9 kg
   Height: 70 Inch
    CVP: 14 (13 - 14)mmHg
   Total In:
                                                                  2,305 mL
                                                                  1,389 mL
   PO:
   TF:
   IVF:
                                                                  2,285 mL
                                                                  1,364 mL
   Blood products:
   Total out:
                                                                  1,779 mL
                                                                    611 mL
   Urine:
                                                                  1,679 mL
                                                                    286 mL
   NG:
                                                                    100 mL
                                                                    325 mL
   Stool:
   Drains:
   Balance:
                                                                    526 mL
                                                                    778 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 98%
   ABG: 7.37/36/163/20/-3
   Ve: 10.8 L/min
   PaO2 / FiO2: 408
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, conjunctive mildly  injected
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, dressing over
   surgical incisions c/d/i
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, Did open eyes to command but not responding to
   other verbal stimulo
   Labs / Radiology
   85 K/uL
   8.5 g/dL
   59 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.9 mEq/L
   14 mg/dL
   115 mEq/L
   142 mEq/L
   25.0 %
   10.5 K/uL
        [image002.jpg]
                            [**2177-11-10**]  12:02 AM
                            [**2177-11-10**]  03:52 AM
                            [**2177-11-10**]  04:43 AM
                            [**2177-11-10**]  06:46 AM
                            [**2177-11-10**]  02:33 PM
                            [**2177-11-10**]  09:20 PM
                            [**2177-11-10**]  09:35 PM
                            [**2177-11-11**]  12:24 AM
                            [**2177-11-11**]  04:55 AM
                            [**2177-11-11**]  05:08 AM
   WBC
   16.6
   18.7
   10.5
   Hct
   27.3
   26.6
   25.0
   Plt
   85
   90
   85
   Cr
   0.8
   0.7
   0.6
   TCO2
   18
   20
   20
   20
   22
   22
   Glucose
   76
   69
   59
   Other labs: PT / PTT / INR:12.4/31.0/1.0, CK / CKMB /
   Troponin-T:204/3/0.04, ALT / AST:39/88, Alk Phos / T Bili:105/1.1,
   Amylase / Lipase:20/8, Differential-Neuts:85.0 %, Band:11.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:316 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:565 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 SHOCK, SEPTIC
   26 year-old F POD #3 s/p open cholecystecomy, POD #2 C-section, Ex-Lap
   that presented with septic shock, now with ARDS.
   # Septic shock:  Etiology most likely secondary to cholecystits. Pt now
   off pressors for last 10 hrs and holding stable bp 90
s-100
   60
s-70
s.  BP does drop when she is agitated so sedation is being
   continued. Swab from CCY growing MSSA.  TTE without vegetation. [**Hospital1 1188**]
   cultures negative
   - Consider changing Cefepime/Flagyl/vanco  since swab growing MSSA.
   -Monitor BP now that off pressors.
   - Transfuse for Hct > 30
   - Trend WBC count fever curve
   # Likely ARDS:  Improving A-a. Decreased Fi02 overnight to 40%, on PEEP
   10 but will try PEEP 8 today
   - Trial of PEEP 8 today
   - no IVF for now
   - Will not actively diurese at this time.
   # DIC:  INR normalized. Platelet count, fibrinogen improving. No e/o
   bleeding currently.
   # Hyperbilirubinemia: Mild transaminitis [**11-9**]. Potentially cholestasis
   in the setting of sepsis. LFTs normalizing. Will monitor.
   # Anemia:  Hct 25.  Slightly decreased overnight. No overt signs of
   bleeding following operations. Could be dilutional.
   - Continue to monitor hct
   # Polysubstance abuse:  Still actively using with urine tox positive
   for cocaine and opiates.
   - social work/substance abuse consult
   # Hep C:  Status unknown. Initially, thrombocytopenic with elevated INR
   already in the setting of DIC.  LFT
s now normalizing
   # FEN:  start TF per surgery at 10cc/hr today. Replete PRN
   # Access:  Right IJ, a line, PIV in place
   # PPx:  Restarted SQH
   # Code:  FULL.
   # Dispo:  ICU level care
   # Comm:  [**Name (NI) 1146**] attempting to contact family through [**Name (NI) 1188**] [**Last Name (NamePattern1) 2522**]
   Department.
 social work on board.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2177-11-9**] 11:27 PM
   Arterial Line - [**2177-11-10**] 04:55 AM
   20 Gauge - [**2177-11-10**] 11:06 PM
   22 Gauge - [**2177-11-10**] 11:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I saw and examined the patient with the medical resident, reviewed 24
   hour events, and was present during key portions of the services
   provided.  Patient remains critically ill, requiring mechanical
   ventilation for sepsis and ARDS.  POD #3 s/p CCY, POD #2 s/p
   C-section.  Clinically continues to improve.  Weaned off pressors as of
   10 pm yesterday.  TTE showed no vegetations, evidence of pulm HTN,
   right ventricular dilatation and hypokinesis.  Intubated, sedated on
   exam, appeared comfortable.  Tachycardia, regular. Lungs with scattered
   crackles, mostly dependent. No wheeze. Abdomen mildly distended, occ
   bowel sounds, trace bipedal edema.  Opened eyes to command.  Tolerated
   switch to pressure support 8/10 CPAP/40% FiO2 so ventilatory
   requirements continue to decrease.  CXR with decreased patchy bilateral
   infiltrates.  Coagulopathy resolved, improving transaminitis, hct
   stable.
   1) Resolving sepsis, now Hemodynamically stable off pressors, continue
   current antibiotics
   2) Resolving ARDS with decreasing FiO2 and ventilatory requirements.
   Still mildly volume overloaded, will follow ins and outs with goal of
   having [**Telephone/Fax (1) 179**] cc negative overnight.  If continues to improve from
   respiratory standpoint with decreased CPAP to 5, wean PSV as tolerated
   and consider SBT in am.  Will need to reduce sedation.
   3) Nutrition: To start tube feeds at 10 cc/hour as per surgery
   recommendations.  Follow residuals.
   Plan otherwise as per Dr. [**Last Name (STitle) 916**]
s assessment and plan.
   Total time spent 55 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3079**] [**Last Name (NamePattern1) 3080**], MD
   on:[**2177-11-11**] 15:05 ------

2177-11-12 07:42:00 Physician Resident Progress Note
Chief Complaint: Sepsis s/p CCY POD 4 and C section POD 3
   24 Hour Events:
   - Pt agitated while on vent, bolused Fentanyl PRN
   - Lasix 10mg IV x1
   - R IJ line re-dressed
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2177-11-11**] 05:14 AM
   Vancomycin - [**2177-11-11**] 08:37 PM
   Metronidazole - [**2177-11-12**] 02:36 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2177-11-11**] 08:16 AM
   Fentanyl - [**2177-11-11**] 08:16 AM
   Heparin Sodium - [**2177-11-11**] 04:14 PM
   Heparin Sodium (Prophylaxis) - [**2177-11-12**] 12:36 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable to be obtained as pt is sedated
   Flowsheet Data as of  [**2177-11-12**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.1
   HR: 77 (70 - 111) bpm
   BP: 106/68(81) {92/53(68) - 169/100(128)} mmHg
   RR: 22 (0 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 82.9 kg
   Height: 70 Inch
    CVP: 10 (4 - 13)mmHg
   Total In:
                                                                  2,448 mL
                                                                    242 mL
   PO:
   TF:
                                                                     74 mL
   IVF:
                                                                  2,309 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                  2,186 mL
                                                                  1,330 mL
   Urine:
                                                                  1,721 mL
                                                                  1,330 mL
   NG:
                                                                    465 mL
   Stool:
   Drains:
   Balance:
                                                                    262 mL
                                                                 -1,088 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 493 (436 - 493) mL
   PS : 12 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 102
   PIP: 19 cmH2O
   Plateau: 25 cmH2O
   Compliance: 28.2 cmH2O/mL
   SpO2: 97%
   ABG: 7.42/40/145/23/1
   Ve: 11.9 L/min
   PaO2 / FiO2: 363
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   106 K/uL
   8.9 g/dL
   57 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.4 mEq/L
   11 mg/dL
   112 mEq/L
   143 mEq/L
   26.2 %
   6.9 K/uL
        [image002.jpg]
                            [**2177-11-10**]  02:33 PM
                            [**2177-11-10**]  09:20 PM
                            [**2177-11-10**]  09:35 PM
                            [**2177-11-11**]  12:24 AM
                            [**2177-11-11**]  04:55 AM
                            [**2177-11-11**]  05:08 AM
                            [**2177-11-11**]  12:06 PM
                            [**2177-11-11**]  06:57 PM
                            [**2177-11-12**]  04:25 AM
                            [**2177-11-12**]  04:47 AM
   WBC
   18.7
   10.5
   9.7
   6.9
   Hct
   26.6
   25.0
   26.0
   26.2
   Plt
   90
   85
   88
   106
   Cr
   0.7
   0.6
   0.6
   TCO2
   20
   22
   22
   22
   27
   Glucose
   69
   59
   57
   Other labs: PT / PTT / INR:13.0/27.6/1.1, CK / CKMB /
   Troponin-T:204/3/0.04, ALT / AST:25/44, Alk Phos / T Bili:89/0.6,
   Amylase / Lipase:20/8, Differential-Neuts:85.0 %, Band:11.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:288 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.0 g/dL, LDH:565 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 SHOCK, SEPTIC
   26 year-old F POD #4 s/p open cholecystecomy, POD #3 C-section, Ex-Lap
   that presented with septic shock, now with ARDS.
   # Septic shock:  Etiology most likely secondary to cholecystits. Pt now
   off pressors for last 36 hrs and holding stable bp.  BP does drop when
   she is agitated so sedation is being continued but will need to be
   lightened for pt to be weaned off vent. Swab from CCY grew MSSA.  TTE
   without vegetation. [**Hospital1 1188**] cultures negative
   - Will cont Cefepime/Flagyl/vanco  for now- will discuss length of tx
   with surgery.
   -Monitor BP now that off pressors.
   - Trend WBC count fever curve
   # Likely ARDS:  Improving A-a. Decreased Fi02 overnight to 40%, on PEEP
   5- was on PS during day yesterday but back to A/C overnight.
   -Will need to discuss possible decr in sedation and weaning from vent
   today with surgery.
   - no IVF for now- pt put out >1L fluid to 10 Lasix IV o/n
   # DIC:  INR normalized. Platelet count, fibrinogen improving. No e/o
   bleeding currently.
   # Hyperbilirubinemia: Mild transaminitis [**11-9**]. Potentially cholestasis
   in the setting of sepsis. LFTs normalizing. Will monitor.
   # Anemia:  Hct 26.2.  Stable at this time. No overt signs of bleeding
   following operations.
   - Continue to monitor hct
   # Polysubstance abuse:  On admission, still actively using with urine
   tox positive for cocaine and opiates.
   - social work/substance abuse consult
   # Hep C:  Status unknown- hepatitis serologies pending. Initially,
   thrombocytopenic with elevated INR already in the setting of DIC.
   LFT
s now normalizing
   # FEN: stopped TF last night after pt had 140cc residual on only
   10cc/hr. Now OGT to suction. Replete PRN
   # Access:  Right IJ, a line, PIV in place
   # PPx:  Restarted SQH , PPI, pneumoboots
   # Code:  FULL.
   # Dispo:  ICU level care
   # Comm:  [**Name (NI) 1146**] attempting to contact family
 social work on board.
   ICU Care
   Nutrition: OG tube to suction currently
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2177-11-9**] 11:29 PM
   Arterial Line - [**2177-11-10**] 04:55 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Still trying to locate family
   Code status: Full code
   Disposition:ICU

2177-11-12 10:37:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   POD #4 open CCY
   POD #3 C-section
   24 Hour Events:
   Received lasix 10 mg IV x 1, good diuresis overnight
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2177-11-11**] 05:14 AM
   Vancomycin - [**2177-11-11**] 08:37 PM
   Metronidazole - [**2177-11-12**] 02:36 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2177-11-11**] 04:14 PM
   Heparin Sodium (Prophylaxis) - [**2177-11-12**] 12:36 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Psychiatric / Sleep: Agitated, intermittently very agitated, biting ETT
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2177-11-12**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 74 (70 - 111) bpm
   BP: 105/65(79) {92/53(68) - 169/100(128)} mmHg
   RR: 24 (0 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 82.9 kg
   Height: 70 Inch
   CVP: 10 (4 - 13)mmHg
   Total In:
                                                                  2,448 mL
                                                                    296 mL
   PO:
   TF:
                                                                     74 mL
   IVF:
                                                                  2,309 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  2,186 mL
                                                                  1,470 mL
   Urine:
                                                                  1,721 mL
                                                                  1,470 mL
   NG:
                                                                    465 mL
   Stool:
   Drains:
   Balance:
                                                                    262 mL
                                                                 -1,174 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 493 (436 - 493) mL
   PS : 12 cmH2O
   RR (Set): 22
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 102
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 36.9 cmH2O/mL
   SpO2: 96%
   ABG: 7.42/40/145/23/1
   Ve: 11.4 L/min
   PaO2 / FiO2: 363
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles : few
   crackles dependently)
   Abdominal: Soft, Bowel sounds present, staples in tack, wounds without
   erythema
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   106 K/uL
   57 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.4 mEq/L
   11 mg/dL
   112 mEq/L
   143 mEq/L
   26.2 %
   6.9 K/uL
        [image002.jpg]
                            [**2177-11-10**]  02:33 PM
                            [**2177-11-10**]  09:20 PM
                            [**2177-11-10**]  09:35 PM
                            [**2177-11-11**]  12:24 AM
                            [**2177-11-11**]  04:55 AM
                            [**2177-11-11**]  05:08 AM
                            [**2177-11-11**]  12:06 PM
                            [**2177-11-11**]  06:57 PM
                            [**2177-11-12**]  04:25 AM
                            [**2177-11-12**]  04:47 AM
   WBC
   18.7
   10.5
   9.7
   6.9
   Hct
   26.6
   25.0
   26.0
   26.2
   Plt
   90
   85
   88
   106
   Cr
   0.7
   0.6
   0.6
   TCO2
   20
   22
   22
   22
   27
   Glucose
   69
   59
   57
   Other labs: PT / PTT / INR:13.0/27.6/1.1, CK / CKMB /
   Troponin-T:204/3/0.04, ALT / AST:25/44, Alk Phos / T Bili:89/0.6,
   Amylase / Lipase:20/8, Differential-Neuts:85.0 %, Band:11.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:288 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.0 g/dL, LDH:565 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ACUTE REPSIRATORY FAILURE, ARDS:  Good urine output to lasix.  CXR
   essentially unchanged given technique.  Continues on empiric
   cefipime/flagyl/vanco.  Mobilizing secrtions, thinner overnight.  Would
   benefit from further diuresis. Goal for 1 L negative again today.
 SHOCK, SEPTIC: Off pressors for almost 24 hours.  No new culture
   data.  Coagulopathy resolved.  Continues broad spectrum antibiotics.
   WBC normal. Plan for 1 week course of abx.
 RENAL FAILURE:  Creatine continues to improve.  Good urine output,
   responding well to lasix.
   ICU Care
   Nutrition:
   Comments: Tube feeds held for high residuals
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2177-11-9**] 11:29 PM
   Arterial Line - [**2177-11-10**] 04:55 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2177-11-13 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Vanco dose incr b/c level 9.3 today
   -furosemide 10IVx1 with subsequent 1.1L diuresed in 1 hr
   -Pt on SIMV for most of day then switched to PS in evening
   -Tube feeds tolerated without residuals at 10 cc/hr
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2177-11-12**] 04:07 PM
   Metronidazole - [**2177-11-13**] 01:37 AM
   Cefipime - [**2177-11-13**] 06:13 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2177-11-12**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2177-11-12**] 11:19 PM
   Midazolam (Versed) - [**2177-11-13**] 12:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-13**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37
C (98.6
   HR: 82 (64 - 88) bpm
   BP: 96/60(74) {84/49(61) - 111/78(88)} mmHg
   RR: 27 (0 - 37) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 82.9 kg
   Height: 70 Inch
    CVP: 6 (6 - 10)mmHg
   Total In:
                                                                  1,570 mL
                                                                    584 mL
   PO:
   TF:
                                                                    114 mL
                                                                     64 mL
   IVF:
                                                                  1,456 mL
                                                                    521 mL
   Blood products:
   Total out:
                                                                  3,476 mL
                                                                    370 mL
   Urine:
                                                                  3,476 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,906 mL
                                                                    214 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 429 (427 - 443) mL
   PC : 12 cmH2O
   RR (Set): 22
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   Compliance: 34.3 cmH2O/mL
   SpO2: 92%
   ABG: 7.39/41/99.[**Numeric Identifier 508**]/23/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 250
   Physical Examination
   Gen: Intubated, sedated, no response to painful stimuli
   Pupils: PERRL
   CV: RRR, No M/R/G
   Pulm: Coarse breath sounds bilaterally, no wheezes or rhonchi
   Abd: Soft, epigastric and suprapubic mid-line inscisions without
   erythema or drainage, Rare breath sounds
   Extr: 3+ edema at hands and ankles, pulses 2+ symmetric
   Labs / Radiology
   144 K/uL
   9.0 g/dL
   63 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.1 mEq/L
   11 mg/dL
   111 mEq/L
   140 mEq/L
   26.4 %
   4.9 K/uL
        [image002.jpg]
                            [**2177-11-11**]  12:24 AM
                            [**2177-11-11**]  04:55 AM
                            [**2177-11-11**]  05:08 AM
                            [**2177-11-11**]  12:06 PM
                            [**2177-11-11**]  06:57 PM
                            [**2177-11-12**]  04:25 AM
                            [**2177-11-12**]  04:47 AM
                            [**2177-11-12**]  07:55 PM
                            [**2177-11-13**]  04:49 AM
                            [**2177-11-13**]  05:04 AM
   WBC
   10.5
   9.7
   6.9
   4.9
   Hct
   25.0
   26.0
   26.2
   26.4
   Plt
   85
   88
   106
   144
   Cr
   0.6
   0.6
   0.5
   0.5
   TCO2
   22
   22
   22
   27
   26
   Glucose
   59
   57
   69
   63
   Other labs: PT / PTT / INR:13.0/27.6/1.1, CK / CKMB /
   Troponin-T:204/3/0.04, ALT / AST:21/32, Alk Phos / T Bili:93/0.5,
   Amylase / Lipase:20/8, Differential-Neuts:85.0 %, Band:11.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:288 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.0 g/dL, LDH:428 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 SHOCK, SEPTIC
   26 year-old F s/p open cholecystecomy, s/p C-section, Ex-Lap that
   presented with septic shock, now with ARDS.
   # Septic shock:  Etiology most likely secondary to cholecystits. Pt now
   off pressors for >48 hrs and holding stable bp.  BP does drop when she
   is agitated so sedation is being continued but will need to be
   lightened for pt to be weaned off vent. Swab from CCY grew MSSA.  TTE
   without vegetation. [**Hospital1 1188**] cultures negative, and sputum cx x2 with <25
   PMNs.
   - Will cont Cefepime/Flagyl/vanco  for now- will discuss length of tx
   with surgery.
   - Monitor BP now that off pressors.
   - Trend WBC count fever curve
   # Likely ARDS:  Improving A-a. Decreased Fi02 overnight to 40%, on PEEP
   5- was on PS  overnight.  RSBI of 100 likely [**2-15**] to agitation when
   sedation is weaned.
   -Will need to discuss possible decr in sedation and weaning from vent
   today with surgery.
   - continue lasix diuresis PRN
   - Attempt extubation today pending discussion above.
   - no IVF for now- pt negative 1.9L yesterday.
   # DIC:  INR normalized. Platelet count, fibrinogen improving. No e/o
   bleeding currently.
   # Hyperbilirubinemia: Mild transaminitis [**11-9**]. Potentially cholestasis
   in the setting of sepsis. LFTs normalizing. Will monitor.
   # Anemia:  Hct 26.2.  Stable at this time. No overt signs of bleeding
   following operations.
   - Continue to monitor hct
   # Polysubstance abuse:  On admission, still actively using with urine
   tox positive for cocaine and opiates.
   - Consider methadone for agitation/withdrawal
   - social work/substance abuse consult
   # Hep C:  Antibody positive.  LFT
s now normalizing
   # FEN: restarted TF last night tolerated okay at 10cc/hr. Replete PRN
   # Access:  Right IJ, a line, PIV in place
   # PPx:  SQH , PPI, pneumoboots
   # Code:  FULL.
   # Dispo:  ICU level care
   # Comm:  [**Name (NI) 1146**] attempting to contact family
 social work on board.
   ICU Care
   Nutrition:
   Replete (Full) - [**2177-11-12**] 12:36 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2177-11-9**] 11:29 PM
   Arterial Line - [**2177-11-10**] 04:55 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2177-11-13 08:57:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   27 y.o. woman with sepsis, ARDS, respirotory failure, s/p CCY and
   C-section
   24 Hour Events:
   Diuresed well in past 24 hours, approximately 2 L negative
   Continues off pressors
   Tube feeds on hold overnight
   Intermittent agitation overnight
   Suctioned for thin, white secretions
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2177-11-12**] 04:07 PM
   Metronidazole - [**2177-11-13**] 01:37 AM
   Cefipime - [**2177-11-13**] 06:13 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2177-11-12**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2177-11-12**] 11:19 PM
   Midazolam (Versed) - [**2177-11-13**] 12:29 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Respiratory: intubated
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2177-11-13**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 82 (64 - 88) bpm
   BP: 96/60(74) {84/49(61) - 111/78(88)} mmHg
   RR: 27 (0 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 82.9 kg
   Height: 70 Inch
   CVP: 6 (6 - 10)mmHg
   Total In:
                                                                  1,570 mL
                                                                    647 mL
   PO:
   TF:
                                                                    114 mL
                                                                     85 mL
   IVF:
                                                                  1,456 mL
                                                                    562 mL
   Blood products:
   Total out:
                                                                  3,476 mL
                                                                    370 mL
   Urine:
                                                                  3,476 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,906 mL
                                                                    277 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 474 (427 - 474) mL
   PC : 12 cmH2O
   RR (Set): 22
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 18 cmH2O
   Plateau: 20 cmH2O
   Compliance: 34.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/41/99.[**Numeric Identifier 508**]/23/0
   Ve: 11.2 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   dependently)
   Abdominal: No(t) Soft, Bowel sounds present, minimal bowel sounds;
   staples in tact; no erythema
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   144 K/uL
   63 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.1 mEq/L
   11 mg/dL
   111 mEq/L
   140 mEq/L
   26.4 %
   4.9 K/uL
        [image002.jpg]
                            [**2177-11-11**]  12:24 AM
                            [**2177-11-11**]  04:55 AM
                            [**2177-11-11**]  05:08 AM
                            [**2177-11-11**]  12:06 PM
                            [**2177-11-11**]  06:57 PM
                            [**2177-11-12**]  04:25 AM
                            [**2177-11-12**]  04:47 AM
                            [**2177-11-12**]  07:55 PM
                            [**2177-11-13**]  04:49 AM
                            [**2177-11-13**]  05:04 AM
   WBC
   10.5
   9.7
   6.9
   4.9
   Hct
   25.0
   26.0
   26.2
   26.4
   Plt
   85
   88
   106
   144
   Cr
   0.6
   0.6
   0.5
   0.5
   TCO2
   22
   22
   22
   27
   26
   Glucose
   59
   57
   69
   63
   Other labs: PT / PTT / INR:13.0/27.6/1.1, CK / CKMB /
   Troponin-T:204/3/0.04, ALT / AST:21/32, Alk Phos / T Bili:93/0.5,
   Amylase / Lipase:20/8, Differential-Neuts:85.0 %, Band:11.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:288 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.0 g/dL, LDH:428 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ARDS, ACUTE RESPIRATORY FAILURE:  Continues to clinically improve
   with continued diuresis.  Secretions white and thin. Good cough/gag.
   Tolerating PSV 5/PEEP 5/40% with good gas. Will plan to discontinue
   arterial line.  Given history of polysubstance abuse, continues to
   require fentanyl/versed at higher doses to maintain level of sedation
   for current level of management albeit quite awake and able to protect
   airway. Will consider precidex, asking pharmacy to check what role this
   may have given continued fentanyl/versed (rather than short term
   sedation for her management thus far).
 SHOCK, SEPTIC:  Resolved. Off pressors for more than 36 hours.
   Tolerating diuresis.  Plan to discontinue central line after placement
   of IVs so that she can complete her 7 day course of IV antibiotics.
   Agree with assessment and plan per medical ICU resident.
   ICU Care
   Nutrition:
   Replete (Full) - [**2177-11-12**] 12:36 PM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2177-11-9**] 11:29 PM
   Arterial Line - [**2177-11-10**] 04:55 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes
   Patient is critically ill

2177-11-14 06:45:00 Physician Resident Progress Note
Chief Complaint: Sepsis POD 6 CCY, POD 5 C section
   24 Hour Events:
 ARTERIAL LINE - STOP [**2177-11-13**] 04:54 PM
 PRESEP CATHETER - STOP [**2177-11-13**] 05:02 PM
 PICC LINE - START [**2177-11-13**] 05:41 PM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2177-11-13**] 08:55 PM
   - Single lumen PICC placed - patient agitated during this and received
   sedation.
   - IJ and A-line pulled
   - Presedex gtt started
   - Methadone 40mg PO QID started
   - Patient self-extubated at 9:30 PM, remained stable with normal vitals
   and responsive to questions.
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2177-11-13**] 09:31 AM
   Vancomycin - [**2177-11-13**] 11:21 PM
   Cefipime - [**2177-11-14**] 06:06 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2177-11-13**] 12:12 PM
   Furosemide (Lasix) - [**2177-11-13**] 09:51 PM
   Heparin Sodium (Prophylaxis) - [**2177-11-13**] 11:21 PM
   Haloperidol (Haldol) - [**2177-11-14**] 03:57 AM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt unable to give complete ROS [**2-15**] sedation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2177-11-14**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.9
   HR: 58 (50 - 69) bpm
   BP: 105/63(73) {97/57(66) - 114/79(87)} mmHg
   RR: 24 (11 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 83.5 kg (admission): 82.9 kg
   Height: 70 Inch
             Total In:
                                                                  1,892 mL
                                                                    266 mL
   PO:
             TF:
                                                                     76 mL
   IVF:
                                                                  1,751 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                  5,260 mL
                                                                  1,145 mL
   Urine:
                                                                  5,260 mL
                                                                  1,145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,368 mL
                                                                   -879 mL
   Respiratory support
   O2 Delivery Device: Face tent, Endotracheal tube
   Ventilator mode: Standby
   Vt (Spontaneous): 405 (405 - 660) mL
   PC : 12 cmH2O
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 93%
   ABG: ///26/
   Ve: 9.6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   expiratory, No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender:
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2, Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   144 K/uL
   9.0 g/dL
   75 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.0 mEq/L
   9 mg/dL
   104 mEq/L
   138 mEq/L
   26.4 %
   4.9 K/uL
        [image002.jpg]
                            [**2177-11-11**]  04:55 AM
                            [**2177-11-11**]  05:08 AM
                            [**2177-11-11**]  12:06 PM
                            [**2177-11-11**]  06:57 PM
                            [**2177-11-12**]  04:25 AM
                            [**2177-11-12**]  04:47 AM
                            [**2177-11-12**]  07:55 PM
                            [**2177-11-13**]  04:49 AM
                            [**2177-11-13**]  05:04 AM
                            [**2177-11-14**]  05:01 AM
   WBC
   10.5
   9.7
   6.9
   4.9
   Hct
   25.0
   26.0
   26.2
   26.4
   Plt
   85
   88
   106
   144
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   TCO2
   22
   22
   27
   26
   Glucose
   59
   57
   69
   63
   75
   Other labs: PT / PTT / INR:13.3/27.6/1.1, CK / CKMB /
   Troponin-T:204/3/0.04, ALT / AST:21/32, Alk Phos / T Bili:93/0.5,
   Amylase / Lipase:20/8, Differential-Neuts:85.0 %, Band:11.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:288 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.0 g/dL, LDH:428 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM
 s/p C section
 POD 5.  S/p CCY POD 6.
 SHOCK, SEPTIC
   H/o ARDS
   h/o DIC
   Hep C
   26 year-old F s/p open cholecystecomy, s/p C-section, Ex-Lap that
   presented with septic shock, now with ARDS.
   # Septic shock:  Etiology most likely secondary to cholecystits. Pt now
   off pressors for several days and holding stable bp. Swab from CCY grew
   MSSA.  TTE without vegetation. [**Hospital1 1188**] cultures negative, and sputum cx
   x2 with <25 PMNs. Pt s/p  self extubation last nigt and currently
   stable. Remains afebrile without leukocytosis at this time.
   - Will cont Cefepime/Flagyl/vanco  for now- will discuss length of tx
   with surgery.
   - Monitor BP
   - Plan for ABG this am to assess resp status
   # Likely ARDS:  Improving A-a. S/p self extubation overnight now stable
   on tent mask.
   - continue lasix diuresis PRN
   - monitor sedation today- pt was on Haldol 10 Q 6, changing to 5-10mg Q
   6prn today .
   - no IVF for now- pt negative 3.3L yesterday.
   # DIC:  INR normalized. Platelet count, fibrinogen improved.
   # Hyperbilirubinemia: Mild transaminitis [**11-9**]. Potentially cholestasis
   in the setting of sepsis. LFTs normalizing. Pt does also have chronic
   Hep C. Will monitor.
   # Anemia:  Hct 26.4.  Stable at this time. No overt signs of bleeding
   following operations.
   - Continue to monitor hct
   # Polysubstance abuse:  On admission, still actively using with urine
   tox positive for cocaine and opiates.
   - Methadone 40 Q 6 ordered- hold for sedation
   -Haldol 5-10 mg Q 6hrs PRN with holding parameters ordered.
   -EKG without QT prolongation today
   - social work/substance abuse consult
   # Hep C:  Antibody positive.  LFT
s normalized
   # FEN: NPO for now, will restart diet once sedation lightened
   # Access: PICC placed [**11-14**]
   # PPx:  SQH , PPI, pneumoboots
   # Code:  FULL.
   # Dispo:  ICU level care for now.
   # Comm:  With pt
   ICU [**Name (NI) 81**]
   Nutrition: NPO for now, will restart diet once sedation lightened
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2177-11-13**] 05:41 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   I saw and examined the patient with the medical ICU resident, reviewed
   24 hour events and was present during key portions of the services
   provided.  Continued to diurese well overnight.  Self-extubated last
   night, turned off precidex, has been sleepy ableit easily arousable.
   Denies soar throat, shortness of breath. Occasional cough,
   nonproductive. Lungs with basilar crackles, patient not taking deep
   breaths.  Abdomen soft, occ. Bowel sounds, staples in tact, no erythema
   or discharge.  Minimal pedal edema.   Now extubated, stable albeit
   still sleepy this am.  Plan to hold sedation for now.  When able to
   take po
s (able to protect airway) can reassess need for klonopin and
   methoadone.  Completing course of abx for cholecystitis, unable to take
   flagyl orally so will change to IV.  Continue to monitor in ICU given
   somnolence and concern about her ability to protect her airway.  Social
   work following.  Time spent 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3079**] [**Last Name (NamePattern1) 3080**], MD
   on:[**2177-11-14**] 11:28 ------

2177-11-15 07:29:00 Physician Resident Progress Note
Chief Complaint: Sepsis POD 7 CCY, POD 6 C section
   24 Hour Events:
   - Pain medications adjusted- pt no longer written for Methadone [**2-15**]
   bradycardia. Now also written for 0.5-2mg Ativan IV q 4 prn and Haldol
   2-5mg Q 6 PRN
   - Asymptomatic Bradycardia as low HR 38 overnight, Reglan and Methadone
   d/c'd.
   -Pt now on clear liquid diet and tolerating this well
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2177-11-14**] 11:53 PM
   Metronidazole - [**2177-11-15**] 04:28 AM
   Cefipime - [**2177-11-15**] 05:56 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2177-11-14**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2177-11-14**] 11:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Edema
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Constipation
   Integumentary (skin): No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2177-11-15**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 41 (39 - 62) bpm
   BP: 111/71(80) {92/50(57) - 134/86(96)} mmHg
   RR: 20 (0 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 83.5 kg (admission): 82.9 kg
   Height: 70 Inch
             Total In:
                                                                  1,780 mL
                                                                    222 mL
   PO:
                                                                    640 mL
             TF:
   IVF:
                                                                  1,140 mL
                                                                    222 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    305 mL
   Urine:
                                                                  2,500 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -720 mL
                                                                    -83 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic), bradycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, 2 surgical sites
   midline- healing well w/o evidence of infxn
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   269 K/uL
   10.4 g/dL
   95 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.6 mEq/L
   10 mg/dL
   104 mEq/L
   138 mEq/L
   29.9 %
   5.7 K/uL
        [image002.jpg]
                            [**2177-11-11**]  05:08 AM
                            [**2177-11-11**]  12:06 PM
                            [**2177-11-11**]  06:57 PM
                            [**2177-11-12**]  04:25 AM
                            [**2177-11-12**]  04:47 AM
                            [**2177-11-12**]  07:55 PM
                            [**2177-11-13**]  04:49 AM
                            [**2177-11-13**]  05:04 AM
                            [**2177-11-14**]  05:01 AM
                             [**2177-11-15**]  04:14 AM
   WBC
   9.7
   6.9
   4.9
   5.3
   5.7
   Hct
   26.0
   26.2
   26.4
   27.9
   29.9
   Plt
   88
   106
   144
   203
   269
   Cr
   0.6
   0.5
   0.5
   0.5
   0.4
   TCO2
   22
   22
   27
   26
   Glucose
   57
   69
   63
   75
   95
   Other labs: PT / PTT / INR:14.3/26.3/1.2, CK / CKMB /
   Troponin-T:204/3/0.04, ALT / AST:21/32, Alk Phos / T Bili:93/0.5,
   Amylase / Lipase:20/8, Differential-Neuts:85.0 %, Band:11.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:288 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.0 g/dL, LDH:428 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 BRADYCARDIA
 HEPATITIS, CHRONIC VIRAL
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   s/p C Section
 .H/O CHOLECYSTITIS, CALCULOUS
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 SHOCK, SEPTIC
   26 year-old F s/p open cholecystecomy, s/p C-section, Ex-Lap that
   presented with septic shock, s/p ARDS.
   # Septic shock:  Etiology most likely secondary to cholecystits. Pt now
   off pressors for several days and holding stable bp. Swab from CCY grew
   MSSA.  TTE without vegetation. [**Hospital1 1188**] cultures negative, and sputum cx
   x2 with <25 PMNs. Pt s/p  self extubation10/30 doing well. Remains
   afebrile without leukocytosis at this time.
   - Will cont Cefepime/Flagyl/vanco  for now- will discuss length of tx
   with surgery.
   - Monitor BP
   # Likely ARDS:  Improving A-a. S/p self extubation [**11-13**] remains stable
   on RA.
   - monitor sedation today- still on PRN lorazepam and haldol but not
   methadone [**2-15**] bradycardia.
   - no IVF for now- pt negative 720cc yesterday.
   # DIC:  INR normalized. Platelet count, fibrinogen improved.
   # Hyperbilirubinemia: Mild transaminitis [**11-9**]. Potentially cholestasis
   in the setting of sepsis. LFTs normalizing. Pt does also have chronic
   Hep C. Will monitor.
   # Anemia:  Hct 29.9.  Stable at this time. No overt signs of bleeding
   following operations.
   - Continue to monitor hct
   # Polysubstance abuse:  On admission, still actively using with urine
   tox positive for cocaine and opiates.
   - Methadone held [**2-15**] bradycardia
   -Haldol 2-5 mg Q 6hrs PRN with holding parameters ordered.
   - social work/substance abuse consult
   # Hep C:  Antibody positive.  LFT
s normalized
   # FEN: Clear liquids- will discuss advancing with surgery
   # Access: PICC placed [**11-14**]
   # PPx:  SQH , PPI, pneumoboots
   # Code:  FULL.
   # Dispo:  transfer to floor today
   # Comm:  With pt
   ICU [**Name (NI) 81**]
   Nutrition: Clear liquid diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2177-11-13**] 05:41 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor